US06392077B1
In the same apparatus and procedure as Example 1 above, 0.18 g (0.61 mmol) of tetrabutylphosphonium chloride, 1.00 g (6.12 mmol) of (chloromethyl)methyldichlorosilane, and 2.52 g (18.6 mmol) of trichlorosilane were reacted at 150° C. for 2 hrs. The resulting mixture was distilled to give 0.96 g of 1,1,1,3,3-pentachloro-1,3-disilabutane (yield; 60%).

reactant | (chloromethyl)methyldichlorosilane | 6.12 mmol, 1.00 g | ClC[Si](Cl)(Cl)C | C2H5Cl3Si
reactant | trichlorosilane | 18.6 mmol, 2.52 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 0.61 mmol, 0.18 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 1,1,1,3,3-pentachloro-1,3-disilabutane | 0.96 g, yield; 60% | Cl[Si](C[Si](C)(Cl)Cl)(Cl)Cl | C2H5Cl5Si2
